US08703768B2
Step 3: 6-Cyclopropyl-N-(1-methyl-5-(methylcarbamoyl)-1H-pyrazol-4-yl)-3-(pyrazin-2-ylamino)pyrazine-2-carboxamide
According to the procedure described in step 2 of example 14, methyl 6-cyclopropyl-3-(pyrazin-2-ylamino)pyrazine-2-carboxylate was reacted with 4-amino-N,1-dimethyl-1H-pyrazole-5-carboxamide to give the title compound. Yellow solid.

reactant | methyl 6-cyclopropyl-3-(pyrazin-2-ylamino)pyrazine-2-carboxylate | C1(CC1)C1=CN=C(C(=N1)C(=O)OC)NC1=NC=CN=C1 | C13H13N5O2
reactant | 4-amino-N,1-dimethyl-1H-pyrazole-5-carboxamide | NC=1C=NN(C1C(=O)NC)C | C6H10N4O
product | 6-Cyclopropyl-N-(1-methyl-5-(methylcarbamoyl)-1H-pyrazol-4-yl)-3-(pyrazin-2-ylamino)pyrazine-2-carboxamide | C1(CC1)C1=CN=C(C(=N1)C(=O)NC=1C=NN(C1C(NC)=O)C)NC1=NC=CN=C1 | C18H19N9O2
